US05232940
A mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.64 g) and N-bromosuccinimide (1.78 g) in carbon tetrachloride (30 ml) was stirred and heated under reflux for 1 hour. Further N-bromosuccinimide (0.89 g) was added, and reflux was continued for a further 1 hour. The mixture was cooled, filtered, and the filtrate was evaporated in vacuo to give an orange solid. Recrystallization from petroleum ether gave 5-amino-4-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole in the form of white crystals (2.6 g) m.p. 119°-120° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.64 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C11H5Cl2F6N3
reactant | N-bromosuccinimide | 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.89 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-amino-4-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)Br | C11H4BrCl2F6N3
